Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(=O)[O:1][CH2:2][CH2:3][CH2:4][c:5]1[cH:6][cH:7][c:8]2[nH:9][cH:10][c:11]([C:12]([CH:13]([NH:14][c:15]3[cH:16][n:17][cH:18][c:19]([O:20][CH3:21])[cH:22]3)[c:23]3[cH:24][cH:25][c:26]([F:27])[cH:28][cH:29]3)=[O:30])[c:31]2[cH:32]1>>[OH:1][CH2:2][CH2:3][CH2:4][c:5]1[cH:6][cH:7][c:8]2[nH:9][cH:10][c:11]([C:12]([CH:13]([NH:14][c:15]3[cH:16][n:17][cH:18][c:19]([O:20][CH3:21])[cH:22]3)[c:23]3[cH:24][cH:25][c:26]([F:27])[cH:28][cH:29]3)=[O:30])[c:31]2[cH:32]1,C[C:101](=[O:201])[O:1][CH2:2][CH2:3][CH2:4][c:5]1[cH:6][cH:7][c:8]2[nH:9][cH:10][c:11]([C:12]([CH:13]([NH:14][c:15]3[cH:16][n:17][cH:18][c:19]([O:20][CH3:21])[cH:22]3)[c:23]3[cH:24][cH:25][c:26]([F:27])[cH:28][cH:29]3)=[O:30])[c:31]2[cH:32]1.[OH-:301].[OH-:302]>>[OH:1][CH2:2][CH2:3][CH2:4][c:5]1[cH:6][cH:7][c:8]2[nH:9][cH:10][c:11]([C:12]([CH:13]([NH:14][c:15]3[cH:16][n:17][cH:18][c:19]([O:20][CH3:21])[cH:22]3)[c:23]3[cH:24][cH:25][c:26]([F:27])[cH:28][cH:29]3)=[O:30])[c:31]2[cH:32]1,base_cat_ester_hydrolysis,"[(301, 101), ([101, 201], 201), (201, [201, 101]), ([101, 1], 1), (302, 301.1), ([301.1, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[O:3][c:4]1[cH:5][cH:6][c:7]([N+:8](=[O:9])[O-:10])[cH:11][cH:12]1.[NH2:13][C@@H:14]1[CH2:15][N:16]([C:17](=[O:18])[O:19][CH2:20][c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[CH2:27][CH2:28][C@H:29]1[CH:30]1[CH2:31][CH2:32][CH2:33][CH2:34][CH2:35]1>>[C:1](=[O:2])([O:3][c:4]1[cH:5][cH:6][c:7]([N+:8](=[O:9])[O-:10])[cH:11][cH:12]1)[NH:13][C@@H:14]1[CH2:15][N:16]([C:17](=[O:18])[O:19][CH2:20][c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[CH2:27][CH2:28][C@H:29]1[CH:30]1[CH2:31][CH2:32][CH2:33][CH2:34][CH2:35]1,[NH2:13][C@@H:14]1[CH2:15][N:16]([C:17](=[O:18])[O:19][CH2:20][c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[CH2:27][CH2:28][C@H:29]1[CH:30]1[CH2:31][CH2:32][CH2:33][CH2:34][CH2:35]1.[Cl:101][C:1](=[O:2])[O:3][c:4]1[cH:5][cH:6][c:7]([N+:8](=[O:9])[OH:10])[cH:11][cH:12]1>>[C:1](=[O:2])([O:3][c:4]1[cH:5][cH:6][c:7]([N+:8](=[O:9])[OH:10])[cH:11][cH:12]1)[NH:13][C@@H:14]1[CH2:15][N:16]([C:17](=[O:18])[O:19][CH2:20][c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[CH2:27][CH2:28][C@H:29]1[CH:30]1[CH2:31][CH2:32][CH2:33][CH2:34][CH2:35]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(13, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][CH2:2][OH:3].[O:4]=[C:5]1[CH2:6][C@@H:7]([SH:8])[CH2:9][N:10]1[CH2:11][c:12]1[cH:13][cH:14][c:15]([O:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[cH:23][cH:24]1>>[CH2:1]([CH2:2][OH:3])[S:8][C@@H:7]1[CH2:6][C:5](=[O:4])[N:10]([CH2:11][c:12]2[cH:13][cH:14][c:15]([O:16][c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[cH:23][cH:24]2)[CH2:9]1,[O:4]=[C:5]1[CH2:6][C@@H:7]([SH:8])[CH2:9][N:10]1[CH2:11][c:12]1[cH:13][cH:14][c:15]([O:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[cH:23][cH:24]1.[Br:101][CH2:1][CH2:2][OH:3].[H-:301].[Na+]>>[CH2:1]([CH2:2][OH:3])[S:8][C@@H:7]1[CH2:6][C:5](=[O:4])[N:10]([CH2:11][c:12]2[cH:13][cH:14][c:15]([O:16][c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[cH:23][cH:24]2)[CH2:9]1,SN2_alcohol(thiol),"[(301, 8.1), ([8.1, 8], 8), (8, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[n:2][cH:3][c:4]([C:5]#[N:6])[n:7][cH:8]1.[CH3:9][CH:10]([CH3:11])[O:12][c:13]1[cH:14][c:15]([OH:16])[cH:17][c:18]([C:19](=[O:20])[NH:21][c:22]2[cH:23][cH:24][n:25]([CH3:26])[n:27]2)[cH:28]1>>[c:1]1([O:16][c:15]2[cH:14][c:13]([O:12][CH:10]([CH3:9])[CH3:11])[cH:28][c:18]([C:19](=[O:20])[NH:21][c:22]3[cH:23][cH:24][n:25]([CH3:26])[n:27]3)[cH:17]2)[n:2][cH:3][c:4]([C:5]#[N:6])[n:7][cH:8]1,[CH3:9][CH:10]([CH3:11])[O:12][c:13]1[cH:14][c:15]([OH:16])[cH:17][c:18]([C:19](=[O:20])[NH:21][c:22]2[cH:23][cH:24][n:25]([CH3:26])[n:27]2)[cH:28]1.[Cl:101][c:1]1[n:2][cH:3][c:4]([C:5]#[N:6])[n:7][cH:8]1.[H-:301].[Na+]>>[c:1]1([O:16][c:15]2[cH:14][c:13]([O:12][CH:10]([CH3:9])[CH3:11])[cH:28][c:18]([C:19](=[O:20])[NH:21][c:22]3[cH:23][cH:24][n:25]([CH3:26])[n:27]3)[cH:17]2)[n:2][cH:3][c:4]([C:5]#[N:6])[n:7][cH:8]1,SNAr_alco(thi)ol(para),"[(301, 16.1), ([16.1, 16], 16), (16, 1), ([1, 8], [8, 7]), ([7, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 7]), ([7, 8], [8, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
